US08648069B2
1-(Azidomethyl)-4-(trifluoromethyl)benzene
Sodium azide (2.30 g, 35.4 mmol) was added to a solution of 4-(trifluoromethyl)benzyl bromide (4.26 g, 17.8 mmol) dissolved in dimethyl sulfoxide (15 mL) and stirred at ambient temperature overnight. The mixture was diluted with ethyl acetate, washed with water and brine, and dried over sodium sulfate. After filtration, the solvent was removed under reduced pressure to afford the title compound. The crude product was used in the next step without further characterization.

reactant | Sodium azide | 35.4 mmol, 2.30 g | [N-]=[N+]=[N-].[Na+]
reactant | 4-(trifluoromethyl)benzyl bromide | 17.8 mmol, 4.26 g | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
solvent | dimethyl sulfoxide | 15 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(Azidomethyl)-4-(trifluoromethyl)benzene | N(=[N+]=[N-])CC1=CC=C(C=C1)C(F)(F)F | C8H6F3N3
